US05532361
Preparation of 9-ethinyl-9-hydroxy-fluorene (A1).
9 g (0.05 mol) of 9-fluorenone and 100 ml of anhydrous THF are charged into a dry flask of 250 ml. To the resulting solution a suspension of sodium acetylide [17.8 g (0.0525 mol) in mineral oil/xylene, 18% by weight based on the suspension; solid purity 95%] is added under nitrogen, by means of a syringe. The resulting suspension is kept overnight under nitrogen and with stirring before being poured into 75 ml of 10% HCl. The phases are separated and the aqueous phase is extracted twice with 100 ml of ethyl ether. The organic extracts are combined and thoroughly dried over sodium sulfate. By eliminating the solvent, 10.1 g of product is obtained, which is used without any further purification.

reactant | 9-fluorenone | 0.05 mol, 9 g | C1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H8O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | sodium acetylide | [C-]#[C-].[Na+].[Na+]
reactant | HCl | 75 ml | Cl | ClH
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 9-ethinyl-9-hydroxy-fluorene | 10.1 g | C(#C)C1(C2=CC=CC=C2C=2C=CC=CC12)O | C15H10O
